US08476455B2
4-[N-(4-hydroxyphenylmethyl)-N-(1H-imidazol-1-yl)amino]benzonitrile
4-hydroxybenzylbromide (15.6 g, 84.3 mmol, prepared following Wissner A. et al., J. Med. Chem. 1992, 35, 1650) was added to a mixture of 4-[N-(1H-imidazol-1-yl)amino]benzonitrile (10.00 g, 54.30 mmol) and K2CO3 (8.20 g, 59.70 mmol) in dry THF (150 ml) at room temperature. The mixture was then stirred at room temperature for 2 h and after poured into water and extracted with ethyl acetate, dried over Na2SO4, filtered, and concentrated under vacuum to give the crude product (16.00 g as solid). Crystallization from ethyl acetate with ethanol yielded the expected product (6.50 g, 41%, mp: 180° C.)

reactant | 4-hydroxybenzylbromide | OC1=CC=C(CBr)C=C1 | C7H7BrO
reactant | 4-[N-(1H-imidazol-1-yl)amino]benzonitrile | 54.30 mmol, 10.00 g | N1(C=NC=C1)NC1=CC=C(C#N)C=C1 | C10H8N4
reactant | K2CO3 | 59.70 mmol, 8.20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-[N-(4-hydroxyphenylmethyl)-N-(1H-imidazol-1-yl)amino]benzonitrile | 6.50 g, 41% | OC1=CC=C(C=C1)CN(N1C=NC=C1)C1=CC=C(C#N)C=C1 | C17H14N4O
